US08710245B2
(c) Synthesis of 2-methyl-4,5,6,7-tetrahydrobenzo[d]thiazole-7-carbonitrile
To a stirred and cooled solution of 5,6-dihydro-2-methylbenzo[d]thiazol-7(4H)-one (1.67 g, 10 mmol) and TOSMIC (2.5 g, 13 mmol) in a mixture of DME (25 mL) and absolute ethanol (25 mL) was added solid t-BuOK (2.8 g, 24 mmol) portionwise while keeping the reaction temperature between 5 and 10° C. The resulting mixture was stirred at room temperature for 30 minutes and at 30-45° C. for 30 minutes. The resulting suspension was cooled to room temperature. The precipitate (TosK) was removed by filtration and rinsed with DME. The combined DME solutions were concentrated under reduced pressure to give the crude product, which was purified by column chromatography.

reactant | 5,6-dihydro-2-methylbenzo[d]thiazol-7(4H)-one | 10 mmol, 1.67 g | CC=1SC2=C(N1)CCCC2=O | C8H9NOS
reactant | TOSMIC | 13 mmol, 2.5 g | CC1=CC=C(C=C1)S(=O)(=O)C[N+]#[C-] | C9H9NO2S
reactant | ethanol | 25 mL | C(C)O | C2H6O
reactant | t-BuOK | 24 mmol, 2.8 g | CC(C)(C)[O-].[K+]
solvent | DME | 25 mL | COCCOC | C4H10O2
product | 2-methyl-4,5,6,7-tetrahydrobenzo[d]thiazole-7-carbonitrile | CC=1SC2=C(N1)CCCC2C#N | C9H10N2S
